US08835431B2
a. 2-(3-Bromo-phenyl)-5-tert-butyl-2H-pyrazol-3-ylamine (Intermediate 23a)
A mixture of 3-bromophenylhydrazine hydrochloride (5.00 g, 22.4 mmol) and 4,4-dimethyl-3-oxo-pentanenitrile (4.29 g, 33.6 mmol) in absolute ethanol (55 mL) was stirred at reflux for 18 h and cooled, then concentrated in vacuo. The residue was suspended in sat. aq. NaHCO3 (50 mL) and extracted with EtOAc (3×50 mL). The combined organics were dried (Na2SO4) and concentrated in vacuo. The residue was purified by FCC, using 0-5% [2M NH3 in MeOH] in DCM, to give the title compound (3.56 g, 54%). LCMS (Method 1): Rt 3.33 min, m/z 294, 296 [MH+].

reactant | 3-bromophenylhydrazine hydrochloride | 22.4 mmol, 5.00 g | Cl.BrC=1C=C(C=CC1)NN
reactant | 4,4-dimethyl-3-oxo-pentanenitrile | 33.6 mmol, 4.29 g | CC(C(CC#N)=O)(C)C | C7H11NO
solvent | ethanol | 55 mL | C(C)O | C2H6O
product | 2-(3-Bromo-phenyl)-5-tert-butyl-2H-pyrazol-3-ylamine | 3.56 g, 54% | BrC=1C=C(C=CC1)N1N=C(C=C1N)C(C)(C)C | C13H16BrN3
